US05206360
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylate (Ic2)
A mixture of diphenylmethyl 7-amino-3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylate (100 mg, 0.217 mmol) and 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione (65 mg, 0.217 mmol) in tetrahydrofuran (1 mL) was stirred at 5° C. for 0.25 hr and then for 1 hr at 22° C. when N,N-dimethylformamide (0.05 mL) was added. The solution was diluted with ethyl acetate. The solution was sequentially washed with dilute aqueous NaHCO3 (2×), H2O, and saturated NaCl and then was dried over Na2SO4. Removal of the solvent left a yellow solid which was chromatographed on SiO2 (6 g) with methylene chloride/2-propanol (96:4) to afford the title compound (120 mg, 86% yield) as a yellow powder.

reactant | diphenylmethyl 7-amino-3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylate | 0.217 mmol, 100 mg | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H20N2O5S
reactant | 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione | 0.217 mmol, 65 mg | NC=1SC=C(N1)/C(/C(=O)N1N=NN(C1=S)C)=N/OC | C8H9N7O2S2
reactant | N,N-dimethylformamide | 0.05 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]3-(3,4-dioxo-2-methyl-1-cyclobutenyl)-3-cephem-4-carboxylate | 120 mg, 86% yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C31H25N5O7S2
